US05079358
3-Indazolecarboxylic acid (1.16 g), 0.81 g of 2-bromo-6-methoxybenzoic acid [described in Chem. Ber., 107, 3874 (1974)], 0.79 g of potassium carbonate and 0.04 g of copper(II) oxide were subjected to reaction in the same manner as in Example 1 to obtain 0.40 g (25.6%) of 1-(2-carboxy-3-methoxyphenyl)-3-indazolecarboxylic acid.

reactant | 3-Indazolecarboxylic acid | 1.16 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | 2-bromo-6-methoxybenzoic acid | 0.81 g | BrC1=C(C(=O)O)C(=CC=C1)OC | C8H7BrO3
reactant | potassium carbonate | 0.79 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(II) oxide | 0.04 g | [Cu]=O
product | 1-(2-carboxy-3-methoxyphenyl)-3-indazolecarboxylic acid | 0.40 g, 25.6% | C(=O)(O)C1=C(C=CC=C1OC)N1N=C(C2=CC=CC=C12)C(=O)O | C16H12N2O5
